US07745641B2
In a similar manner to Step 1 of Reference Example 18, 5-(4-hydroxymethylpiperidinomethyl)-1-(tert-butoxycarbonyl)indole (2.85 g, 8.27 mmol) was dissolved in DMF (50 mL), and the solution was treated with imidazole (619 mg, 9.09 mmol and tert-butyldimethylsilyl chloride (1.37 g, 9.09 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=95/5 to 80/20) to obtain 5-[4-(tert-butyldimethylsilyloxy)methylpiperidinomethyl]-1-(tert-butoxycarbonyl)indole (2.90 g, yield 76%).

reactant | 5-(4-hydroxymethylpiperidinomethyl)-1-(tert-butoxycarbonyl)indole | 8.27 mmol, 2.85 g | OCC1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C20H28N2O3
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 9.09 mmol, 1.37 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-[4-(tert-butyldimethylsilyloxy)methylpiperidinomethyl]-1-(tert-butoxycarbonyl)indole | 2.90 g, yield 76% | [Si](C)(C)(C(C)(C)C)OCC1CCN(CC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C26H42N2O3Si
